US07332486B2
6-Cyclopropylamino-9-(4-methoxycarbonylphenyl)-2-trifluoromethylpurine (20 mg, 0.053 mmol) was treated with 0.53 mmol of 1-2 M KOH in methanol (containing 5% water) and stirred for 14 hours at room temperature. The reaction mixture was acidified with trifluoroacetic acid (30% in dichloromethane) to pH=2 and concentrated under vacuum. The residue was extracted with 20% methanol in dichloromethane. The extraction was loaded on a silica gel column and eluted with 20% methanol in dichloromethane to give 9-(4-carboxyphenyl)-6-cyclopropylamino-2-trifluoromethylpurine (14 mg, 70% yield). 1H NMR (300 MHz, DMSO) δ 8.85 (s, 1H), 8.70 (s, 1H), 8.15 (d, J=8.4 Hz, 2H), 8.01 (d, J=8.4 Hz, 2H), 3.07 (b, 1H), 0.78 (b, 2H), 0.68 (b, 2H). [ESMS m/z (363.9 (M+1)+)]

reactant | 6-Cyclopropylamino-9-(4-methoxycarbonylphenyl)-2-trifluoromethylpurine | 0.053 mmol, 20 mg | C1(CC1)NC1=C2N=CN(C2=NC(=N1)C(F)(F)F)C1=CC=C(C=C1)C(=O)OC | C17H14F3N5O2
reactant | KOH | 0.53 mmol, 1-2 M | [OH-].[K+]
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | methanol | CO | CH4O
product | 9-(4-carboxyphenyl)-6-cyclopropylamino-2-trifluoromethylpurine | 14 mg, 70% yield | C(=O)(O)C1=CC=C(C=C1)N1C2=NC(=NC(=C2N=C1)NC1CC1)C(F)(F)F | C16H12F3N5O2
